US05173489
To a mechanically stirred slurry of (2-methoxyphenyl)acetonitrile (10.0 g, 68 mmol), 4-picolyl chloride hydrochloride (25.0 g, 152 mmol), and 1.2 g benzyltriethylammonium chloride in toluene (200 ml) at room temperature was added 50% NaOH (50 ml) over a period of 15 min. After addition was complete, the reaction mixture was slowly heated to 50° and maintained at that temperature for approx. 3 h. Completion of the reaction was determined by TLC. While still stirring the reaction mixture at 50° C., 70 ml of water was added, and stirring was continued for 15 min. The mixture was cooled to room temperature, and the layers were separated. To the toluene layer was added 14.0 g Magnesoll (an intimate mixture of silica gel and magnesium sulfate), and the solution was stirred at 50° for 30 min. The solution was filtered, and the solvent was removed under reduced pressure. The subsequent oil was purified via column chromatography (silica gel, 10% methanol/methylene chloride) to give α,α-Bis(4-pyridinylmethyl)2-methoxybenzeneacetonitrile as a solid, 16.4 g, 73% yield. NMR (200 MHz, CDCl3) δ3.26 (d, 2H, J=13Hz); 3.88 (d, 2H, J=13Hz); 4.07 (s, 3H); 6.70 (m, 6H); 7.00 (m, 6H); 7.30 (m, 1H) 8.38 (m, 4H). Mass Calcd. for C21H19N3O: 329.1528. Found: 329.1505.

reactant | (2-methoxyphenyl)acetonitrile | 68 mmol, 10.0 g | COC1=C(C=CC=C1)CC#N | C9H9NO
reactant | 4-picolyl chloride hydrochloride | 152 mmol, 25.0 g | Cl.N1=CC=C(C=C1)CCl
reactant | NaOH | 50 ml | [OH-].[Na+]
reactant | water | 70 ml | O | H2O
catalyst | benzyltriethylammonium chloride | 1.2 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | α,α-Bis(4-pyridinylmethyl)2-methoxybenzeneacetonitrile | 73% yield | N1=CC=C(C=C1)CC(C#N)(C1=C(C=CC=C1)OC)CC1=CC=NC=C1 | C21H19N3O
